US07176212B2
2-{4-[3-(N,N-Dimethyl)amino-2-hydroxypropoxy]anilino}-4-(N-(carbamoylmethyl)anilino)pyrimidine
2-Chloro-4-(N-(carbamoylmethyl)anilino)pyrimidine (prepared by analogy to Method A and the corresponding Reference Examples A-1–A-10) (390 mg, 1.49 mmol) was dissolved in NMP (3 ml) and 4-[3-(N,N-dimethyl)amino-2-hydroxypropoxy]aniline dihydrochloride (Reference Example D-1; 378 mg, 1.34 mmol) was added. The resulting suspension was heated at 120° C. which caused the solid to dissolve. The reaction mixture was heated at 120° C. for 12 hours and allowed to cool to ambient temperature. The reaction mixture was then basified to pH 9–10 using methanolic ammonia and then evaporated onto silica (5 ml). The residue was purified by column chromatography eluting with methanol (15%):DCM:aqueous ammonia (1%). The resulting gum was re-evaporated from EtOAc three times to give the title product as a foam (184 mg). NMR: (300 MHz) 2.31 (s, 6H), 2.49 (m, 2H), 3.8 (m, 1H), 3.92 (m, 2H), 4.42 (s, 2H), 5.68 (d, 1H), 6.79 (d, 2H), 7.4) (m, 5H), 7.58 (d, 2H), 7.82 (d, 1H), 8.93 (s, 1H); m/z: (ES+) 437.5 (MH+).

reactant | 2-Chloro-4-(N-(carbamoylmethyl)anilino)pyrimidine | ClC1=NC=CC(=N1)N(C1=CC=CC=C1)CC(N)=O | C12H11ClN4O
reactant | 4-[3-(N,N-dimethyl)amino-2-hydroxypropoxy]aniline dihydrochloride | 1.34 mmol, 378 mg | Cl.Cl.CN(C)CC(COC1=CC=C(N)C=C1)O
reactant | ammonia | N | H3N
solvent | NMP | 3 ml | CN1CCCC1=O | C5H9NO
product | 2-{4-[3-(N,N-Dimethyl)amino-2-hydroxypropoxy]anilino}-4-(N-(carbamoylmethyl)anilino)pyrimidine | 184 mg | CN(C)CC(COC1=CC=C(NC2=NC=CC(=N2)N(C2=CC=CC=C2)CC(N)=O)C=C1)O | C23H28N6O3
